US07964649B2
6-Bromo-3-formyl-indole-1-carboxylic acid tert-butyl ester (24).
6-Bromoindole-3-carboxaldehyde, 23 (5.0 g, 22.3 mmol) is dissolved in methylene chloride (40 mL), then cooled to 0° C. and tert-butylchloroformate (3.40 g, 25.0 mmol) and triethyl amine (2.50 g, 25.0 mmol) are added over 5 minutes. The reaction is maintained at reflux, under inert atmosphere for 3 hours. The reaction is cooled, filtered and the solvent removed in vacuo. The residue composed primarily of compound 24 is used in the Example 18 without purification. (See, e.g., G. Wille and W. Steglich, Synthesis, 2001, 759-762 for a related procedure.)

reactant | 6-Bromoindole-3-carboxaldehyde | BrC1=CC=C2C(=CNC2=C1)C=O | C9H6BrNO
reactant | tert-butylchloroformate | 25.0 mmol, 3.40 g | C(C)(C)(C)OC(=O)Cl | C5H9ClO2
reactant | triethyl amine | 25.0 mmol, 2.50 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | 6-Bromo-3-formyl-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C=C(C2=CC=C(C=C12)Br)C=O | C14H14BrNO3
